US06080773
To a stirred suspension of 2.23 g of 2-(1,2-benzisoxazol-3-yl)-benzaldehyde and 2.6 g of magnesium sulfate in 25 ml of methylene chloride was added 1.7 ml of diphenylmethanamine and the stirring continued overnight. The reaction was filtered through dicalite and the filtrate evaporated to give 3.9 g crude N-[2-(1,2-benzisoxazol-3-yl)-benzylidene]-1,1-diphenylmethanamine as a gum which slowly solidified. A stirred solution of 0.75 g of N-[2-(1,2-benzisoxazol-3-yl)-benzylidene]-1,1-diphenylmethanamine in 15 ml tetrahydrofuran was cooled to -65° C. and 2.5 ml of a 1M solution of potassium tert-butoxide in tetrahydrofuran was added dropwise. The purple coloured solution was stirred for 5 min then 4-fluorobenzyl bromide was added rapidly and the reaction allowed to slowly warm to room temperature. The reaction was diluted with 25 ml of water then extracted with 100 ml then 50 ml of methylene chloride. The combined organic extracts were dried over sodium sulphate then evaporated to give 1.18 g of crude N-(diphenylmethylidene)-2-(1,2-Benzisoxazol-3-yl)-a-(4-fluorobenzyl)-benzenemethanamine which was not characterised due to instability. To a solution of 1.1 g of N-(diphenylmethylidene)-2-(1,2-benzisoxazol-3-yl)-a-(4-fluorobenzyl)-benzenemethanamine in 20 ml of acetone was added 9 ml of 1 M hydrochloric acid. The solution was stirred overnight then evaporated and 15 ml of 4M sodium hydroxide solution added. The solution was extracted with 100 ml then 50 ml of methylene chloride. The organic extracts were dried and evaporated to an oil which was purified by flash chromatography eluting with a 19:1 mixture of methylene chloride-methanol to yield the pure amine free base which was dissolved in methanol and acidified with a solution of hydrogen chloride in methanol, evaporated and crystalised from methanol-ether to yield 0.18 g of 2-(1,2-benzisoxazol-3-yl)-a-(4-fluorobenzyl)-benzenemethanamine hydrochloride, melting at 238-241° C.

reactant | N-[2-(1,2-benzisoxazol-3-yl)-benzylidene]-1,1-diphenylmethanamine | 0.75 g | O1N=C(C2=C1C=CC=C2)C2=C(C=NC(C1=CC=CC=C1)C1=CC=CC=C1)C=CC=C2 | C27H20N2O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | N-(diphenylmethylidene)-2-(1,2-Benzisoxazol-3-yl)-a-(4-fluorobenzyl)-benzenemethanamine | 1.18 g | C1(=CC=CC=C1)C(=NC(C1=C(C=CC=C1)C1=NOC2=C1C=CC=C2)CC2=CC=C(C=C2)F)C2=CC=CC=C2 | C34H25FN2O
